US03998859
A process for preparing chenodeoxycholic acid from cholic acid comprising the steps of: (1) esterification of the acid group of the cholic acid to produce methyl cholate; (2) selective acetylation of the methyl cholate to produce methyl 3,7-diacetyl cholate; (3) mesylation of the methyl 3,7-diacetyl cholate to produce methyl 3,7-diacetyl-12-mesylcholate; (4) dehydromesylation of the methyl 3,7-diacetyl-12-mesylcholate by hexamethylphosphoric triamide in the presence of a weak base to produce methyl 3,7-diacetylchol-11-enate; (5) hydrogenation of the methyl 3,7-diacetylchol-11-enate to produce methyl diacetyl chenodeoxycholate; and (6) saponification of the methyl diacetyl chenodeoxycholate to produce chenodeoxycholic acid.

reactant | chenodeoxycholic acid | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C24H40O4
reactant | cholic acid | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
product | methyl cholate | C[C@H](CCC(=O)OC)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C25H42O5
